US04548947
A mixture of 300 g of 4-trifluoromethylcinnamic acid ethyl ester, 500 g of nitromethane, and 39 g of tetramethylguanidine is allowed to stir for 72 hours. The solution is diluted with diethyl ether and aqueous hydrochloric acid solution (1 N, 1 liter) is added. The organic layer is separated, dried over anhydrous magnesium sulfate and evaporated to give 4-nitro-3-(4-trifluoromethylphenyl)butanoic acid ethyl ester.

reactant | 4-trifluoromethylcinnamic acid ethyl ester | 300 g | C(C)OC(C=CC1=CC=C(C=C1)C(F)(F)F)=O | C12H11F3O2
reactant | nitromethane | 500 g | [N+](=O)([O-])C | CH3NO2
reactant | tetramethylguanidine | 39 g | CN(C(N(C)C)=N)C | C5H13N3
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hydrochloric acid | 1 N, 1 liter | Cl | ClH
product | 4-nitro-3-(4-trifluoromethylphenyl)butanoic acid ethyl ester | C(C)OC(CC(C[N+](=O)[O-])C1=CC=C(C=C1)C(F)(F)F)=O | C13H14F3NO4
